US08003806B2
(d) Methyl (3R)-3-(5-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate
To a solution of the crude mixture of methyl (3R)-3-(5-nitro-1H-benzimidazol-1-yl)-3-phenylpropanoate and the corresponding 2-ethoxyethanol ester (714 mg, ca. 2.2 mmol) in a mixture of 1,4-dioxane (10 mL) and water (10 mL) was added concentrated ammonia solution (0.3 mL) and sodium dithionite (3.06 g, 17.6 mmol). The solution was stirred at room temperature for 3 hours, then diluted with brine, and extracted with ethyl acetate. The combined ethyl acetate extracts were dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, gradient eluting with a mixture of dichloromethane and methanol (95:5, then 9:1), to afford a mixture of the title compound and the corresponding 2-ethoxyethanol ester, which was used directly without any additional purification. [LCMS (Method C, Mobile Phase I) RT=1.95 mins, MH+ 296 (Me-ester) and RT=2.13 mins, MH+ 354 (EtOCH2CH2-ester)].

reactant | methyl (3R)-3-(5-nitro-1H-benzimidazol-1-yl)-3-phenylpropanoate | [N+](=O)([O-])C1=CC2=C(N(C=N2)[C@H](CC(=O)OC)C2=CC=CC=C2)C=C1 | C17H15N3O4
reactant | ammonia | 0.3 mL | N | H3N
reactant | sodium dithionite | 17.6 mmol, 3.06 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | Methyl (3R)-3-(5-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | NC1=CC2=C(N(C=N2)[C@H](CC(=O)OC)C2=CC=CC=C2)C=C1 | C17H17N3O2
